US09334290B2
A solution of N-(3-bromo-2-chlorophenyl)-2-(methylamino)benzamide (150 mg, 0.442 mmol) in THF (15 mL) cooled to 0° C. and treated with triphosgene (197 mg, 0.663 mmol). The mixture was stirred at room temperature for 1 h, then was cooled to 0° C. and treated with water until gas evolution ceased. The mixture was concentrated, and the residue was dissolved in EtOAc and washed sequentially with saturated aqueous NaHCO3, water and brine, dried and concentrated. The residue was purified by column chromatography on silica gel, eluting with EtOAc-hexanes (gradient from 0-50%), to provide (Z)-4-((3-bromo-2-chlorophenyl)imino)-1-methyl-1H-benzo[d][1,3]oxazin-2(4H)-one as a beige solid (130 mg, 81% yield). 1H NMR (400 MHz, chloroform-d) δ 8.33 (dd, J=7.8, 1.4 Hz, 1H), 7.72-7.61 (m, 1H), 7.41 (dd, J=7.9, 1.5 Hz, 1H), 7.36-7.28 (m, 1H), 7.16-7.08 (m, 2H), 7.07-7.01 (m, 1H), 3.55 (s, 3H).

reactant | N-(3-bromo-2-chlorophenyl)-2-(methylamino)benzamide | 0.442 mmol, 150 mg | BrC=1C(=C(C=CC1)NC(C1=C(C=CC=C1)NC)=O)Cl | C14H12BrClN2O
reactant | triphosgene | 0.663 mmol, 197 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | O | H2O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | (Z)-4-((3-bromo-2-chlorophenyl)imino)-1-methyl-1H-benzo[d][1,3]oxazin-2(4H)-one | 130 mg, 81% yield | BrC=1C(=C(C=CC1)\N=C/1\C2=C(N(C(O1)=O)C)C=CC=C2)Cl | C15H10BrClN2O2
